US09212187B2
Synthesis of 1-methyl-6-{3-[N-(1-oxo-1,2-dihydroisoquinolin-4-yl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one
6-{3-[N-(1-Methoxyisoquinolin-4-yl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one (55 mg) was added to a 1N-hydrogen chloride in ethanol solution(5 ml), and stirred at 75° C. for 2 hours. The reaction mixture was cooled to room temperature. 1N-Sodium hydroxide aqueous solution(5 ml) was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was dried over anhydrous sodium sulfate. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:0→4:1). The purified product was condensed under reduced pressure to give the title compound(20.6 mg) as a colorless oil.

reactant | 6-{3-[N-(1-Methoxyisoquinolin-4-yl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one | 55 mg | COC1=NC=C(C2=CC=CC=C12)N(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C29H28N4O3
reactant | hydrogen chloride | Cl | ClH
reactant | Sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-methyl-6-{3-[N-(1-oxo-1,2-dihydroisoquinolin-4-yl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one | 20.6 mg | CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)C1=CNC(C2=CC=CC=C12)=O)=O | C28H26N4O3
